* source V2
C_C4         0 VCC  1n  TC=0,0 
R_R5         N02403 N02379  1k TC=0,0 
X_M1         N07524 N02303 N02379 0 0 SPA20N60C3 PARAMS:    
R_R4         N02299 N02303  1k TC=0,0 
R_R1         N02275 N02327  1k TC=0,0 
C_C1         N02275 N02327  1n  TC=0,0 
X_U1          N02327 N02275 N02403 N02191 0 N02299 VCC N02027 UCC28C44D
C_C2         0 N02191  1n  TC=0,0 
C_C6         0 N02403  1n  TC=0,0 
C_C3         0 N02027  1n  TC=0,0 
R_R7         0 N02379  1k TC=0,0 
R_R2         N02403 N15703  1k TC=0,0 
R_R3         N02027 N02191  1k TC=0,0 
R_R8         0 N02794  1k TC=0,0 
R_R9         N02794 N02275  1k TC=0,0 
C_C7         0 0  1n  TC=0,0 
R_R10         0 N05919  1k TC=0,0 
D_D21         N06135 N06445 DI_B240A 
R_R11         N06135 N06089  1k TC=0,0 
C_C8         N06089 N05919  1n  TC=0,0 
C_C9         N06135 N06089  1n  TC=0,0 
R_R12         N06427 N06445  1k TC=0,0 
R_R13         N06402 N06427  1k TC=0,0 
R_R14         N06135 N06427  1k TC=0,0 
R_Rfbt         N06089 N06746  1k TC=0,0 
R_R15         N06741 N06746  1k TC=0,0 
L_L2         N15256 N06746  1.5uH  
R_LOAD         0 N06746  1k TC=0,0 
D_Dsnub         N07524 0 s3j 
C_C13         0 N07531  220n  TC=0,0 
R_Rsnub1         0 N07531  2.23k TC=0,0 
R_Rsnub2         0 N07531  2.23k TC=0,0 
X_TX1    N07531 N07524 N07377 0 SCHEMATIC1_TX1 
V_V1         N08826 N08833  
+SIN 0 220 50 0 0 0
X_U5         N08826 0 N08833 N07531 469_03
C_C16         VCC 0 1n TC=0
C_C17         N06445 0 1n TC=0
C_Cbulk         N07531 0 220uF TC=0
C_Cout1         N15256 0 220uF TC=0
C_Cout2         N06746 0 200uF TC=0
X_Q4         N02027 N02191 N15703 awb2n2222a PARAMS:                           
+                  
Q_Q5         N06746 N06741 N06427 BC846B 
X_U6         0 N05919 N06135 awbtl431
X_U7         N06402 N02027 N02794 N06135 3N244
X_Dsec2         N07377 N15256 awbmur1510 PARAMS:                
X_Dsec         N07377 N15256 awbmur1510 PARAMS:                
X_U8         0 N06741 DI_DFLZ16

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 0.99 TN33_20_11_2P90
L1_TX1         1 2 100 
L2_TX1         3 4 100
.ends SCHEMATIC1_TX1
